US06613760B1
Ethyl 5-hydroxyindole-2-carboxylate
Boron tribromide (64.58 g) was added dropwise to a stirred solution of ethyl 5-methoxyindole-2-carboxylate (20 g) in dry dichloromethane (1000 ml) at −78° C. under an atmosphere of argon. The reaction was allowed to warm to room temperature and stirred for a further 2 hours. The reaction was poured into ice/saturated aqueous sodium hydrogen carbonate solution with stirring and extracted with ethyl acetate. Combined organic extracts were washed with saturated aqueous sodium hydrogen carbonate solution, water, aqueous saturated sodium chloride solution and dried (MgSO4). The solution was concentrated in vacuo and the residue was purified by column chromatography using 0-60% diethyl ether iso-hexane as eluent to give product as a white solid (9.02 g, 48%); NMR δ(CD3SOCD3) 1.31 (t, 3H), 4.29 (q, 2H), 6.79 (dd, 1H), 6.90 (dd, 1H), 7.22 (d, 1H), 8.84 (s, 1H), 11.52 (brs, 1H), M/z (+) 206 (MH+).

reactant | Boron tribromide | 64.58 g | B(Br)(Br)Br | BBr3
reactant | ethyl 5-methoxyindole-2-carboxylate | 20 g | COC=1C=C2C=C(NC2=CC1)C(=O)OCC | C12H13NO3
solvent | dichloromethane | 1000 ml | ClCCl | CH2Cl2
product | Ethyl 5-hydroxyindole-2-carboxylate | 9.02 g, 48% | OC=1C=C2C=C(NC2=CC1)C(=O)OCC | C11H11NO3
